US06949258B2
Preparation of Capsule Shell Containing Calcium Pectinate
Arabia gum or peach gum was dissolved into the LMP solution, or the LMP and arabia gum or peach gum was independently dissolved into a proper amount of water and then mixed to uniform, and then propylene glycol was added to obtain a glue liquid. The residual processes are identical with those disclosed in example 8.

reactant | propylene glycol | C(C(C)O)O | C3H8O2
reactant | water | O | H2O
product | Calcium Pectinate | C(C(C(C(C=O)O)O)O)O | C5H10O5
